US07067517B2
4-Chloro-N-(6-hydroxy-pyridin-3-yl)-benzamide
4-Chlorobenzoyl chloride (1.75 g, 10.0 mmol) was added carefully to a stirred solution of 5-amino-2-methoxypyridine (1.24 g, 10.0 mmol) in dichloromethane (10 mL). After stirring overnight at room temperature, the solvent is evaporated in vacuo and the residue is heated in a pre-heated kugelrohr oven at 200° C. for 5–10 minutes under house-vacuum (around 20 mbar) yielding the title compound, which was used without further purification.

reactant | 4-Chlorobenzoyl chloride | 10.0 mmol, 1.75 g | ClC1=CC=C(C(=O)Cl)C=C1 | C7H4Cl2O
reactant | 5-amino-2-methoxypyridine | 10.0 mmol, 1.24 g | NC=1C=CC(=NC1)OC | C6H8N2O
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 4-Chloro-N-(6-hydroxy-pyridin-3-yl)-benzamide | ClC1=CC=C(C(=O)NC=2C=NC(=CC2)O)C=C1 | C12H9ClN2O2
